US06656951B2
(S)-8-(8-Ethoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-3-naphthalen-2-yl-8-aza-bicyclo[3.2.1]octan-3-ol
To 117 mg (0.32 mmol) (S)-toluene-4-sulfonic acid 8-ethoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester was added 84 mg (0.33 mmol) 3-naphthalen-2-yl-8-aza-bicyclo[3.2.1]octan-3-ol, 95.0 mg K2CO3, and 7 mL acetonitrile. The reaction was refluxed and was monitored by TLC on a silica gel plate using CHCl3:MeOH (10:1) as eluent. After 18 h, the mixture was transferred to a separatory funnel containing 50 mL water. The aqueous layer was extracted with CH2Cl2 (2×25 mL), washed with brine, dried over Na2SO4, filtered and evaporated to an oil. The crude material was purified by flash chromatography on silica gel, using a gradient elution of CHCl3:MeOH (40:1 to 20:1). The appropriate fractions were combined and evaporated to afford 68.1 mg (0.15 mmol, a 48% yield) of the title compound as a tan solid.

reactant | (S)-toluene-4-sulfonic acid 8-ethoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester | 0.32 mmol, 117 mg | C(C)OC1=CC=CC2=C1O[C@@H](CO2)COS(=O)(=O)C2=CC=C(C=C2)C | C18H20O6S
reactant | 3-naphthalen-2-yl-8-aza-bicyclo[3.2.1]octan-3-ol | 0.33 mmol, 84 mg | C1=C(C=CC2=CC=CC=C12)C1(CC2CCC(C1)N2)O | C17H19NO
reactant | K2CO3 | 95.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | water | 50 mL | O | H2O
product | (S)-8-(8-Ethoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-3-naphthalen-2-yl-8-aza-bicyclo[3.2.1]octan-3-ol | 48% yield | C(C)OC1=CC=CC2=C1OC(CO2)CN2[C@@H]1CC(CC2CC1)(O)C1=CC2=CC=CC=C2C=C1 | C28H31NO4
